US06794403B2
Step c) 2-(3-Fluoro-4-hydroxyphenyl)-7-vinyl-1,3-benzoxazol-5-ol
Potassium carbonate (55 mg) was added into a solution of 2-[4-(acetyloxy)-3-fluorophenyl]-7-vinyl-1,3-benzoxazol-5-yl acetate (0.14 g, 0.39 mmol) and 1,4-dioxane (3 mL). The mixture was stirred at 90° C. for 1 h, poured into water, acidified with HCl (2N) and extracted with EtOAc. The organic extracts were dried over MgSO4. Evaporation and crystallization from EtOAc/hexanes, gave a white solid (0.06 g, 46% yield, m.p. 250-252° C.); MS m/e 272 (M+H)+.

reactant | Potassium carbonate | 55 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-[4-(acetyloxy)-3-fluorophenyl]-7-vinyl-1,3-benzoxazol-5-yl acetate | 0.39 mmol, 0.14 g | C(C)(=O)OC=1C=C(C2=C(N=C(O2)C2=CC(=C(C=C2)OC(C)=O)F)C1)C=C | C19H14FNO5
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
reactant | HCl | 2N | Cl | ClH
solvent | water | O | H2O
product | 2-(3-Fluoro-4-hydroxyphenyl)-7-vinyl-1,3-benzoxazol-5-ol | 0.06 g, 46% yield | FC=1C=C(C=CC1O)C=1OC2=C(N1)C=C(C=C2C=C)O | C15H10FNO3
